US06927303B2
According to the similar procedure in Synthesis Example 1, by using 5-amino-2-methoxy-benzoic acid (2.10 g, 12.7 mmole), DMF (50 ml), TEA (6 ml), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (2.00 ml, 14.0 mmole), 1.50 g (31.5% yield) of 2-methoxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid was obtained as a yellow solid:

reactant | 5-amino-2-methoxy-benzoic acid | 12.7 mmole, 2.10 g | NC=1C=CC(=C(C(=O)O)C1)OC | C8H9NO3
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 14.0 mmole, 2.00 ml | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-methoxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 1.50 g, 31.5% yield | COC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C16H10F7NO3
